US05221750
Synthesis of Compound (11), 5-t-butyl-2-(2,4-dinitrophenyl)-4-isoxazolin-3-one:
After mixing 3.7 g of 2,4-dinitrofluorobenzene, 20 ml of dimethylformamide, 2.9 g of 5-t-butyl-3-hydroxyisoxazole, and 2.8 g of potassium carbonate, the reaction was performed for 30 minutes at 80° C. and after cooling the reaction mixture, the product formed was extracted with a mixture of diethyl ether and ethyl acetate. The solvent was distilled off from the extract under reduced pressure and the residue obtained was crystallized from a mixture of diethyl ether and ethyl acetate to provide 1.9 g of the desired compound with a yield of 30.9%. The melting point thereof was 167° C. to 168° C.

reactant | 2,4-dinitrofluorobenzene | 3.7 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3FN2O4
reactant | 5-t-butyl-3-hydroxyisoxazole | 2.9 g | C(C)(C)(C)C1=CC(=NO1)O | C7H11NO2
reactant | potassium carbonate | 2.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 5-t-butyl-2-(2,4-dinitrophenyl)-4-isoxazolin-3-one | 1.9 g, yield of 30.9% | C(C)(C)(C)C1=CC(N(O1)C1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])=O | C13H13N3O6
